US07214802B2
N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-(4-pyridin-3-yl-imidazol-1-yl)-benzamide
4-Methyl-3-(4-pyridin-3-yl-imidazol-1-yl)-benzoic acid (15 mg; 0.054 mmol), N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide (29 mg; 0.11), and HATU (49 mg; 0.11 mmol) were dissolved in 1 mL of DMF, and the mixture was chilled to 0° C. Diisopropylethylamine (19 μL; 0.11 mmol) was then added, the cold-bath was removed, and the mixture was stirred overnight. The mixture was then poured into water and extracted with EtOAc. The organic portion was washed with NaHCO3 and brine, and the washes were extracted once with EtOAc. The extracts were combined, dried with Na2SO4, filtered, and concentrated. Chromatography (0–6.5% MeOH/0.5% NH4OH in CH2Cl2) provided 23 mg (0.043 mmol; 80%) of Example 160. ESI MS m/z 534 [C28H31N5O4S+H]+.

reactant | 4-Methyl-3-(4-pyridin-3-yl-imidazol-1-yl)-benzoic acid | 0.054 mmol, 15 mg | CC1=C(C=C(C(=O)O)C=C1)N1C=NC(=C1)C=1C=NC=CC1 | C16H13N3O2
reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide | 29 mg | NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC | C12H20N2O3S
reactant | HATU | 0.11 mmol, 49 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Diisopropylethylamine | 0.11 mmol, 19 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-(4-pyridin-3-yl-imidazol-1-yl)-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1C=NC(=C1)C=1C=NC=CC1)=O)OC)NS(=O)(=O)C | C28H31N5O4S
